US06391520B1
In accordance with a conventional method in which isobutene is used under acidic conditions, 10 mmol of 1,3-dicarboxyadamantane was t-butoxylated to give 1,3-di(t-butoxycarbonyl)adamantane.

reactant | isobutene | C=C(C)C | C4H8
reactant | 1,3-dicarboxyadamantane | 10 mmol | C(=O)(O)C12CC3(CC(CC(C1)C3)C2)C(=O)O | C12H16O4
product | 1,3-di(t-butoxycarbonyl)adamantane | C(C)(C)(C)OC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)OC(C)(C)C | C20H32O4
